US04239901
2.65 g of α-chloro-4-(pyrazol-1-yl) phenylacetic acid ethyl ester are dissolved in 50 ml of carbon tetrachloride, and 2 ml of water are added. Chlorine is introduced for 30 minutes and the reaction mixture is washed with sodium carbonate solution; concentration is effected, followed by purification through column chromatography on silica gel. (cyclohexane/diethyl ether 4:1). 4-(4-chloropyrazol-1-yl) phenylglyoxylic acid ethyl ester is obtained which, through saponification analogously to Example 10 is converted into 4-(4-chloropyrazol-1-yl) phenylglyoxylic acid.

reactant | α-chloro-4-(pyrazol-1-yl) phenylacetic acid ethyl ester | 2.65 g | C(C)OC(C(Cl)C1=CC=C(C=C1)N1N=CC=C1)=O | C13H13ClN2O2
reactant | water | 2 ml | O | H2O
reactant | Chlorine | ClCl | Cl2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-chloropyrazol-1-yl) phenylglyoxylic acid ethyl ester | C(C)OC(C(=O)C1=CC=C(C=C1)N1N=CC(=C1)Cl)=O | C13H11ClN2O3
